US07807709B2
1-(3-Methoxy-propyl)-3-methyl-1H-indole-6-carboxylic acid
To a solution of 1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carboxylic acid methyl ester (1.56 g, 6.3 mmol) in MeOH (20 mL) and H2O (1 mL) is added NaOH (756 mg, 18.9 mmol) and the mixture is stirred at 50° C. overnight. Then neutralized by the addition of water and HCl 1.0 M (3 eq, 18.9 mmol). CH2Cl2 is added, the layers are separated, and the aqueous one is extracted twice with CH2Cl2. The combined organic layers are dried over Na2SO4, filtered and concentrated under reduced pressure. The crude material is obtained in a pure form and is used in the next step without purification. MS (LC-MS): 248.0 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 mL/min): 4.93 min.

reactant | 1-(3-methoxy-propyl)-3-methyl-1H-indole-6-carboxylic acid methyl ester | 6.3 mmol, 1.56 g | COC(=O)C1=CC=C2C(=CN(C2=C1)CCCOC)C | C15H19NO3
reactant | NaOH | 18.9 mmol, 756 mg | [OH-].[Na+]
reactant | HCl | 18.9 mmol, 1.0 M, 3 eq | Cl | ClH
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 20 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
product | 1-(3-Methoxy-propyl)-3-methyl-1H-indole-6-carboxylic acid | COCCCN1C=C(C2=CC=C(C=C12)C(=O)O)C | C14H17NO3
